US06462069B2
6-Methoxy-benzo[b]thiophene-3-carboxylic acid methoxy-methyl amide (800 mg, 3.19 mmol) was stirred in dry THF (20 mL) under argon at −78° C. under argon. Methyl lithium (5.0 mL, 1.5 M in hexanes, 2.35 mmol) was added dropwise, and the reaction stirred 1 h at −78° C. and then 1 h while warning to −20° C. The reaction was poured over saturated NH4Cl (40 mL) and extracted with EtOAc (2×30 mL). Organics were washed with brine (25 mL), dried (Na2SO4), and concentrated in vacuo. Purification by silica gel chromatography gave 234 mg (36%) of 3-acetyl-6-methoxy-benzo[b]thiophene as an orange solid. 1H NMR (300 MHz, CDCl3) δ8.64 (d, 1H, J=9.0Hz), 8.11 (s, 1H), 7.30 (d, 1H, J=2.4Hz), 7.10 (dd, 1H, J=9.0, 2.4Hz), 3.89 (s, 3H), 2.63 (s, 3H) (C11H10O2S) C, H. S. Calculated C=64.06, H=4.89, S=15.54; found C=64.31, H=4.82, S=15.50.

reactant | 6-Methoxy-benzo[b]thiophene-3-carboxylic acid methoxy-methyl amide | 3.19 mmol, 800 mg | CON(C(=O)C=1C2=C(SC1)C=C(C=C2)OC)C | C12H13NO3S
reactant | Methyl lithium | 2.35 mmol, 1.5 M, 5.0 mL | C[Li]
reactant | NH4Cl | 40 mL | [NH4+].[Cl-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-acetyl-6-methoxy-benzo[b]thiophene | 234 mg, 36% | C(C)(=O)C=1C2=C(SC1)C=C(C=C2)OC | C11H10O2S
